US07091214B2
tert-Butyl 4-[(4-amino-2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate (0.64 g) was deprotected according to the method described in Example 177. The crude solid was dissolved in water (10 mL), and ammonium hydroxide was added until the solution was basic. The mixture was then extracted with chloroform (2×10 mL), and the combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from acetonitrile and dried for 16 hours in a vacuum oven at 60° C. to provide 0.28 g of 2-ethoxymethyl-7-phenyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a white, crystalline solid, mp 142–143° C.

reactant | tert-Butyl 4-[(4-amino-2-ethoxymethyl-7-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)methyl]piperidine-1-carboxylate | 0.64 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2CCN(CC2)C(=O)OC(C)(C)C)COCC)C2=CC=CC=C2 | C30H37N5O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 10 mL | O | H2O
product | 2-ethoxymethyl-7-phenyl-1-(piperidin-4-ylmethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.28 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C2=CC=CC=C2)N)N1)CC1CCNCC1 | C25H29N5O
